US06416733B1
To a solution of 2-formylbenzenesulfonic acid sodium salt (13.6 g) in dimethylformamide (400 mL) was added 2-hydrazinonicotinic acid (10.0 g) and the mixture stirred for three hours. N-hydroxysuccinimide (7.52 g) and dicyclohexylcarbodiimide (27.6 g) were added to the reaction and it was stirred for 16 hours. The mixture was filtered through Celite and the filtrate concentrated under vacuum to a thick oil. This was triturated with ethyl acetate to afford a solid which was filtered to afford crude product (32.8 g). The solids were refluxed in hot methanol for 5 hours, filtered, washed with methanol, and dried under vacuum to afford Sodium 2-[[[5-[[(2,5-dioxo-1-pyrolidinyl)oxy]carbonyl]-2-pyridinyl]hydrazono]methyl]-benzenesulfonate (21.2 g) as a pale yellow solid. NMR (DMSO-d6): 2.88, s (4H); 7.36, m (3H); 7.79, d of d (1H); 8.10, m (2H); 8.79, t (1H); 9.16, s (1H); 11.90, s (1H).

reactant | 2-formylbenzenesulfonic acid sodium salt | 13.6 g | [Na+].C(=O)C1=C(C=CC=C1)S(=O)(=O)[O-]
reactant | 2-hydrazinonicotinic acid | 10.0 g | N(N)C1=C(C(=O)O)C=CC=N1 | C6H7N3O2
reactant | N-hydroxysuccinimide | 7.52 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 27.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylformamide | 400 mL | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | Sodium 2-[[[5-[[(2,5-dioxo-1-pyrolidinyl)oxy]carbonyl]-2-pyridinyl]hydrazono]methyl]-benzenesulfonate | 21.2 g | O=C1N(C(CC1)=O)OC(=O)C=1C=CC(=NC1)NN=CC1=C(C=CC=C1)S(=O)(=O)[O-].[Na+] | InChI=1S/C17H14N4O7S.Na/c22-15-7-8-16(23)21(15)28-17(24)12-5-6-14(18-9-12)20-19-10-11-3-1-2-4-13(11)29(25,26)27;/h1-6,9-10H,7-8H2,(H,18,20)(H,25,26,27);/q;+1/p-1
